US05034530
3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-imidazo[1,5-a]quinoxaline.
M.p. 165°-167° C., from 3-methyl-2-quinoxalinol and 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole. (Compound 7)

reactant | 3-methyl-2-quinoxalinol | CC=1C(=NC2=CC=CC=C2N1)O | C9H8N2O
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
product | 3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-imidazo[1,5-a]quinoxaline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(=NC1=CC=CC=C21)C | C16H13N5O
